US04977155
7,8-Dihydroxy-4-nitro-1H-1,2,3-triazolo[4,5-f]quinoxaline
Finely powdered potassium nitrate (3.1 g, 30.7 mmol) was added to a stirred solution of 7,8-dihydroxy-1H-1,2,3-triazolo[4,5-f]quinoxaline (6.1 g, 30 mmol) in 50 ml of conc. sulfuric acid at 0° C. (ice bath). The mixture was stirred over night at room temperature. Then a further amount of potassium nitrate (3 g) was added with cooling on an ice bath, and stirring was continued for 5 h at room temperature. The mixture was poured into 700 ml of ice/water, and the yellow precipitate was isolated, washed with water, and recrystallized from ethanol giving 5.2 g (70%) of the title compound; m.p.>300° C.; IR (KBr): 3300-2200, 1700 cm-1 ; 1H-NMR (DMSO-d6) 8.13 (s, 1H, ArH), 11-16 (broad, 3H, NH+2OH).

reactant | potassium nitrate | 30.7 mmol, 3.1 g | [N+](=O)([O-])[O-].[K+]
reactant | 7,8-dihydroxy-1H-1,2,3-triazolo[4,5-f]quinoxaline | 30 mmol, 6.1 g | OC1=NC2=CC=C3C(=C2N=C1O)NN=N3 | C8H5N5O2
reactant | potassium nitrate | 3 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 7,8-Dihydroxy-4-nitro-1H-1,2,3-triazolo[4,5-f]quinoxaline | OC1=NC2=CC(=C3C(=C2N=C1O)NN=N3)[N+](=O)[O-] | C8H4N6O4
